US04410458
A mixture of 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2-methyl-2-chloromethylpenam-3-carboxylate (0.50 g.) in 1,1,2-trichloroethane(7 cc) and pyridine (0.16 g.) was heated under reflux for 3.5 hours. After cooling the reaction mixture was washed with water, dried and then concentrated under reduced pressure. The residue was subjected to chromatography on silica gel and eluated with chloroform. The eluate was concentrated and the residue was crystalized with ether to yield crystals (0.12 g.) of 2,2,2-trichloroethyl 7-(2-phenylacetamido)-3-methyl-3-cephem-4-carboxylate, m.p. 161°-162° C.

reactant | 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2-methyl-2-chloromethylpenam-3-carboxylate | 0.50 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(CCl)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H18Cl4N2O4S
solvent | pyridine | 0.16 g | N1=CC=CC=C1 | C5H5N
product | 2,2,2-trichloroethyl 7-(2-phenylacetamido)-3-methyl-3-cephem-4-carboxylate | 0.12 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H17Cl3N2O4S
